US20010021718A1
tert-Butyl (3R)-3-{3-[(4-chlorophenoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoate
A solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (300 mg, 1.00 mmol) in dichloromethane (15 ml) was treated with 1,1′-carbonyldiimidazole (162 mg, 1.00 mmol) and the solution was stirred at room temperature for 2 hours. 2-(4-chlorophenoxy)-N′-hydroxyethanimidamide (Patent US 97-815671 970313) (197 mg, 0.98 mmol) was then added and the mixture was stirred for 17 hours. The solvent was removed under reduced pressure and the residue was heated neat at 120° C. under a nitrogen atmosphere for 2 hours. The crude product was then purified by column chromatography on silica gel eluting with dichloromethane:methanol (99:1) to afford the title compound as a colourless oil (220 mg).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 1.00 mmol, 300 mg | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1,1′-carbonyldiimidazole | 1.00 mmol, 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(4-chlorophenoxy)-N′-hydroxyethanimidamide | 0.98 mmol, 197 mg | ClC1=CC=C(OCC(N)=NO)C=C1 | C8H9ClN2O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | tert-Butyl (3R)-3-{3-[(4-chlorophenoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoate | 220 mg | ClC1=CC=C(OCC2=NOC(=N2)[C@@H](CC(=O)OC(C)(C)C)CCCC2CCCCC2)C=C1 | C25H35ClN2O4
